US07576215B2
3-{3′-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]-1,1′-BIPHENYL-4-YL}PROPANOIC ACID
To a solution of 3-benzyl-4-(3-bromophenyl)-8-(trifluoromethyl)quinoline (0.30 g, 0.7 mmol), 4-(2-carboxyethyl) benzene boronic acid (0.15 g, 0.75 mmol) in 15 ml DME under a nitrogen atmosphere is added terakistriphenyl phosphine palladium (0.08 g, 0.07 mmol) followed by sodium carbonate (0.22 g, 2.04 mmol) dissolved in 5 ml water. The reaction mixture was heated to reflux for 12 hr. The reaction was cooled, poured into 1N HCl and extracted with EtOAc. The organic layer was dried and concentrated to provide the title compound as a tan solid (0.24 g, 70%): MS (ES) m/z 509.9; HRMS: calcd for C32H24F3NO2+H+, 512.18319; found (ESI, [M+H]+), 512.1842;

reactant | 3-benzyl-4-(3-bromophenyl)-8-(trifluoromethyl)quinoline | 0.7 mmol, 0.30 g | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C1=CC(=CC=C1)Br)C(F)(F)F | C23H15BrF3N
reactant | 4-(2-carboxyethyl) benzene boronic acid | 0.75 mmol, 0.15 g | C(=O)(O)CCC1=CC=C(C=C1)B(O)O | C9H11BO4
reactant | sodium carbonate | 2.04 mmol, 0.22 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | DME | 15 ml | COCCOC | C4H10O2
solvent | water | 5 ml | O | H2O
product | 3-{3′-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]-1,1′-BIPHENYL-4-YL}PROPANOIC ACID | 0.24 g, 70% | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)C1=CC=C(C=C1)CCC(=O)O)C(F)(F)F | C32H24F3NO2
